US07323455B2
7-(3-Chloro-4-fluorophenyl)-5,5-dithien-2-yl-1,5-dihydro-4,1-benzoxazepin-2(H)-one
Prepared from 7-bromo-5,5-dithien-2-yl-1,5-dihydro-4,1-benzoxazepin-2(3H)-one and 3-chloro-4-fluorobenzeneboronic acid using the coupling procedure described in example 1. 1H-NMR (DMSO-d6) δ 10.27 (s, 1H), 7.68 (m, 4H), 7.48 (t, J=8.8 Hz, 1H), 7.38 (m, 1H), 7.27 (d, J=8.5 Hz, 1H), 7.16 (d, J=2.1 Hz, 1H), 7.04 (dd, J=5.0, 3.6 Hz, 2H), 6.93 (dd, J=3.6, 1.2 Hz, 2H), 4.22 (s, 2H); MS (ES) m/z 456 (M+H)+; Anal. Calc. For C23H15ClFNO2S2: C, 60.59; H, 3.32; N, 3.07. Found: C, 60.35; H, 3.28; N, 2.91.

reactant | 7-bromo-5,5-dithien-2-yl-1,5-dihydro-4,1-benzoxazepin-2(3H)-one | BrC=1C=CC2=C(C(OCC(N2)=O)(C=2SC=CC2)C=2SC=CC2)C1 | C17H12BrNO2S2
reactant | 3-chloro-4-fluorobenzeneboronic acid | ClC=1C=C(C=CC1F)B(O)O | C6H5BClFO2
product | 7-(3-Chloro-4-fluorophenyl)-5,5-dithien-2-yl-1,5-dihydro-4,1-benzoxazepin-2(H)-one | C1C(=O)NC2=C(C=C(C=C2)C3=CC(=C(C=C3)F)Cl)C(O1)(C4=CC=CS4)C5=CC=CS5 | C23H15ClFNO2S2
